US07368578B2
A mixture of 4-[(4-chloromethylphenoxy)methyl]-2-phenyl-5-methyl-1,3-oxazole (2.85 g), 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde (1.64 g), potassium carbonate (1.20 g) and N,N-dimethylformamide (100 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 3-({4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazole-4-carbaldehyde as colorless crystals (3.49 g, 86%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 152-153° C.

reactant | 4-[(4-chloromethylphenoxy)methyl]-2-phenyl-5-methyl-1,3-oxazole | 2.85 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 1.64 g | OC1=NN(C=C1C=O)C1=CC=CC=C1 | C10H8N2O2
reactant | potassium carbonate | 1.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-({4-[(2-phenyl-5-methyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-phenyl-1H-pyrazole-4-carbaldehyde | 3.49 g, 86% | C1(=CC=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NN(C=C2C=O)C2=CC=CC=C2)C=C1)C | C28H23N3O4
